US05059708
2.47 g (7 mmol) of diethyl 1-pyrenylmethylphosphonate and 0.99 g (7 mmol) of 4-chlorobenzaldehyde were dissolved with stirring in 25 ml of N,N-dimethylformamide. To this reaction mixture, 1.62 g (7×1.2 mmol) of sodium methylate (28 wt. % methanol solution of sodium methylate) was gradually added in such a manner that the temperature of the reaction mixture did not exceed 30° C.). The reaction mixture was then stirred at room temperature for 1 hour, neutralized with acetic acid, and diluted with about 300 ml of water. Crystals separated out. The crystals were separated by filtration, washed with water, dried and then purified by column chromatography two times. In the first time, the purification was carried out on a column of silica gel, using a mixed solvent of toluene/n-hexane (1/1) as the developing solvent, and in the second time, the purification was carried out on a column of silica gel, using a mixed solvent of toluene/n-hexane (1/2) as the developing solvent, whereby yellow 1-(4-chlorostyryl)pyrene was obtained with a yield of 2.21 g (93.5%).

reactant | diethyl 1-pyrenylmethylphosphonate | 7 mmol, 2.47 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CP(OCC)(OCC)=O | C21H21O3P
reactant | 4-chlorobenzaldehyde | 7 mmol, 0.99 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium methylate | 1.2 mmol, 1.62 g | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | about 300 ml | O | H2O
product | 1-(4-chlorostyryl)pyrene | ClC1=CC=C(C=CC2=CC=C3C=CC4=CC=CC5=CC=C2C3=C45)C=C1 | C24H15Cl
